Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
peanut / acetylcysteine
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
LABS ON ADMISSION:
___ 07:24PM BLOOD ___ 
___ Plt ___
___ 07:24PM BLOOD ___ 
___ Im ___ 
___
___ 02:45AM BLOOD ___ ___
___ 07:24PM BLOOD ___ 
___
___ 07:24PM BLOOD ___ 
___
___ 07:24PM BLOOD ___
___ 07:24PM BLOOD ___
___ 07:26PM BLOOD ___
___ 07:24PM URINE ___ Sp ___
___ 07:24PM URINE ___ 
___
___ 07:24PM URINE RBC-<1 ___ 
___
___ 07:24PM URINE ___
___ 07:24PM URINE ___
=================
PERTINENT LABS:
___ 11:00AM BLOOD ___
___ 11:00AM BLOOD ___
___ 07:24PM BLOOD ___ 
___
___ 11:00AM BLOOD HCV ___
___ 06:27AM BLOOD ___
___ 06:27AM BLOOD HAV ___ IgM ___

=================
LABS ON DISCHARGE:
___ 06:27AM BLOOD ___ 
___ Plt ___
___ 06:27AM BLOOD ___ 
___ Im ___ 
___
___ 06:05AM BLOOD ___ ___
___ 06:27AM BLOOD ___ 
___
___ 06:05AM BLOOD ___
___ 06:27AM BLOOD ___ 

=================
MICROBIOLOGY:
___ 7:24 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
=================
RUQ ULTRASOUND ___:
IMPRESSION:    
Cholelithiasis without evidence of acute cholecystitis. 

 
Brief Hospital Course:
___ is a ___ woman who is otherwise healthy who presented 
with abdominal pain, nausea and vomiting in setting of heavy 
alcohol use and family history of liver disease found to have 
possible but not classic alcoholic hepatitis versus other viral 
infection.  
 
ACUTE/ACTIVE PROBLEMS: 
# Alcohol Hepatitis
# Abdominal Pain
# Nausea and vomiting:
LFTs initially in AST>ALT pattern, but subsequent pattern was 
not classic for etoh hepatitis and no bilirubin elevation. APAP 
level 0 (was briefly treated with NAc in ED, which led to lip 
swelling so this was stopped and NAc listed as allergy). HBV and 
HCV negative ___ to HBV, will need vaccination), 
ferritin not elevated, AMA, ___ neg. She had normal TBili and 
INR and no encephalopathy, so no evidence of acute liver 
failure. If this is etoh hepatitis, DF was very low so no 
steroids. 
Her LFTs were rapidly improving. She did report that for 2 weeks 
prior to admission she was having abdominal pain with eating, 
feeling like something was stuck (in abdomen, not esophagus), 
without changes in bowel habits.  Abdominal exam was improved.  
She does use NSAIDs, so pain related to eating could be due to 
gastritis or ulcer.  She has also been using 3 OTC diet pills, 
which she had nausea with in the past, and did restart taking 
several weeks ago, so there is a possibility it could be related 
or could be just a coincidence in terms of timing. She was 
counseled on discussing future medications such as diet pills 
with her new PCP. She was treated with IV fluids and Tylenol was 
avoided in acute setting.  She was counseled on importance of 
abstaining from alcohol use. HAV was considered given GI illness 
beforehand and the fact that she is a student; IgG positive, IgM 
pending on discharge. Advised her on precautions in case HAV IgM 
positive (but does not live in dorm/handle food). If her IgM is 
positive, she will be contacted by state ___. 
   
# Cholelithiasis: RUQ ultrasound showed cholelithiasis without 
choledocholithiasis or cholecystitis.  ACS was consulted in the 
ED and did not recommend inpatient cholecystectomy. Elective 
outpatient surgical consultation could be considered if her 
abdominal pain recurs.

# Adjustment disorder with depressed mood
# Alcohol abuse
# History of passive suicidal ideations: She endorses severe 
stress especially over the past week.  She has no family in the 
country and had problems with the friends she was living with, 
which caused her to feel upset and have passive suicidal 
ideations prior to admission.  She has since moved into her own 
apartment and feels much better. She denied current passive or 
active SI while inpatient, so did not pose a risk to herself or 
others. She has cut herself in the past. She was very receptive 
to getting help and social work and psychiatry were consulted.  
She did not need ___ and psychiatry felt she had 
adjustment disorder with depression.  She would benefit from 
outpatient therapy. She was given resources by social work for 
signing up with an IOP and/or dual diagnosis program. 

# iron deficiency: continued home PO iron

===============
TRANSITIONAL ISSUES:
- Needs LFTs rechecked at next visit
- HAV IgM pending at time of discharge; if positive, would be 
contacted by state as reportable illness
- She was set up with new PCP 
- ___ needs outpatient therapy for coping, stress management, 
adjustment disorder with depression
- Consider outpatient surgical consultation for elective 
cholecystectomy if pain recurs, but not urgent
- Patient will need HBV vaccination since ___
- monitor iron deficiency

===============
___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care today was greater than 30
minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Elevated liver function tests
Alcohol abuse
Alcoholic hepatitis
Adjustment disorder with depressed mood

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with abdominal pain, nausea and vomiting.  
You were found to have abnormally high liver function tests.  
You had negative testing for hepatitis B and C and autoimmune 
causes.  It is most likely that your liver function tests were 
abnormal due to heavy alcohol use, causing mild alcoholic 
hepatitis.  The most important treatment is to abstain from 
alcohol to avoid liver damage.  You are being set up with new 
primary doctor and should have your liver function tests 
rechecked within the next week.

If you have pain, for now, would avoid taking Tylenol since it 
is processed by the liver.  You can cautiously use lower doses 
of ibuprofen (Advil, Motrin are brand names) ___ every ___ 
hours, but avoid using for more than a few days, because this 
can put you at risk of ulcers and stomach irritation.

If you have questions about other new medications like dietary 
supplements or pills, please ask your primary doctor before 
starting.

You have gallstones but no signs of inflammation or infection of 
your gallbladder or blockage by stones.  You do not currently 
need your gallbladder removed, but may be worth considering in 
the future.

As we discussed, it will be helpful to see a therapist who you 
can talk to about stressors in your life.  If you ever have 
thoughts of hurting yourself, please call your doctor 
immediately or call ___ or return to the emergency department.
 
Followup Instructions:
___